US20010021718A1
tert-butyl (3R)-6-cyclohexyl-3-[3-(1H-imidazol-2-ylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate
A solution of tert-butyl 1H-imidazole-1-carboxylate (133 mg, 0.79 mmol) in anhydrous tetrahydrofuran (2 ml), cooled to −78° C., treated with n-butyl lithium, 2.5M in hexanes (320 μl, 0.79 mmol) and stirred under a nitrogen atmosphere for 1 hour. A solution of tert-butyl (3R)-6-cyclohexyl-3-[3-(([(4-methylphenyl)sulfonyl]oxy)methyl)-1,2,4-oxadiazol-5- yl]hexanoate (Preparation 92) (400 mg, 0.79 mmol) in anhydrous tetrahydrofuran (2ml) was added slowly and the mixture was allowed to warm to room temperature and stirred at this temperature for 18 to hours. The reaction mixture was partitioned between ethyl acetate (30 ml) and water (30 ml). The organic layer was washed once more with water (20 ml), dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as a pale yellow oil (307 mg).

reactant | tert-butyl 1H-imidazole-1-carboxylate | 0.79 mmol, 133 mg | N1(C=NC=C1)C(=O)OC(C)(C)C | C8H12N2O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-(([(4-methylphenyl)sulfonyl]oxy)methyl)-1,2,4-oxadiazol-5- yl]hexanoate | 0.79 mmol, 400 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2ml | O1CCCC1 | C4H8O
product | tert-butyl (3R)-6-cyclohexyl-3-[3-(1H-imidazol-2-ylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate | 307 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CC=1NC=CN1 | C22H34N4O3
